US04476307
1-(3-Methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone
Under N2, 3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone (1.0 g, 5 mmoles) was added portionwise to a slurry of NaH (50% oil dispersion, 265 mg., 5.5 mmoles) slurried in 50 ml. dimethylformamide and the mixture stirred at 25° for 2 hours. Cu2Br2 (1.43 g, 5 mmoles) and then m-bromoanisole (1.9 ml, 15 mmole) were added. The mixture was heated at 130° for 3.5 days, cooled, poured over ice and ethyl acetate, basified with NH4OH and filtered over a pad of diatomaceous earth. The aqueous layer was separated from the filtrate and extracted with fresh ethyl acetate. The combined organic layers were back-washed with H2O, dried over MgSO4, treated with activated carbon, evaporated to dryness and the residue triturated with ether, and filtered to yield starting material (110 mg). The ether filtrate was evaporated to an oil and chromatographed on 75 ml. silica gel, eluting with CHCl 3. Clean product fractions were combined, evaporated to an oil and crystallized from CHCl3 /ether, 320 mg, m.p. 127°-129° (dec).

reactant | 3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone | 5 mmoles, 1.0 g | CN1C(CCC1)=C1C(NC2=CC=CC=C12)=O | C13H14N2O
reactant | NaH | 5.5 mmoles, 265 mg | [H-].[Na+]
reactant | m-bromoanisole | 15 mmole, 1.9 ml | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | NH4OH | [NH4+].[OH-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(3-Methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone | COC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=C1N(CCC1)C)=O | C20H20N2O2
